US06008243
According to the procedure described in Example 1(a), N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(R)-[3-(4-(pyridin-4-yl)phenyl)-1H-pyrrol-1-yl]succinamic acid benzyl ester was hydrogenolyzed in MeOH after 20 hours. Purification via flash column chromatography with 1% HOAc/10% MeOH/CHCl3 as eluant and azeotrope with n-heptane furnished 24 mg (32%) of N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(R)-[3-(4-(pyridin-4-yl)phenyl)-1H-pyrrol-1-yl]succinamic acid as yellow crystals. 1H NMR (CD3OD): δ 8.54 (d, 2H, J=5.6 Hz), 7.99 (bd, 1H, J=4.4 Hz), 7.80-7.59 (m, 6H), 7.34 (t, 1H, J=1.9 Hz), 6.92 (t, 1H, J=2.5 Hz), 6.55 (dd, 1H, J=1.9, 2.8 Hz), 5.28 (t, 1H, J=7.2 Hz), 4.17 (s, 1H), 3.23 (dd, 1H, J=7.5, 16.7 Hz), 3.01 (dd, 1H, J=7.2, 16.7 Hz), 2.66 (d, 3H, J=3.5 Hz), 0.95 (s, 9H). IR(KBr): 3422, 1654, 1598, 1562, 1535 cm-1. HRFABMS: Calculated for C26H31N4O4 (M+H+): 463.2345. Found: 463.2356. Anal. Calculated for C26H30N4O4.1.15 H2O.0.1 CHCl3 : C, 63.30; H, 6.59; N, 11.31. Found: C, 63.28; H, 6.58; N, 11.08.

reactant | N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(R)-[3-(4-(pyridin-4-yl)phenyl)-1H-pyrrol-1-yl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | C33H36N4O4
solvent | MeOH | CO | CH4O
product | N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(R)-[3-(4-(pyridin-4-yl)phenyl)-1H-pyrrol-1-yl]succinamic acid | 24 mg, 32% | CC([C@@H](C(NC)=O)NC([C@@H](CC(=O)O)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O)(C)C | C26H30N4O4
